US06159904
14-2) Synthesis of 6-ethoxycarbonyl-5,8-dimethylthiochroman-4-one
21.5 Grams (64 mmol) of 3-(4-ethoxycarbonyl-2,5-dimethylphenylthio)propionic acid was added to 100 g of a 20 wt % P2O5 -containing polyphosphoric acid at room temperature, and then the mixture was stirred under heat at 40° C. for 2 hours. After allowed to cool, the reaction mixture was gradually added to ice water and extracted with ethyl acetate, and an organic layer was washed with a 1 wt % sodium carbonate aqueous solution twice, with water twice and with a saturated sodium chloride aqueous solution once, and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure to give 14.6 g (yield 86%) of the titled compound.

reactant | 3-(4-ethoxycarbonyl-2,5-dimethylphenylthio)propionic acid | 64 mmol | C(C)OC(=O)C1=CC(=C(C=C1C)SCCC(=O)O)C | C14H18O4S
reactant | P2O5 | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
product | 6-ethoxycarbonyl-5,8-dimethylthiochroman-4-one | 14.6 g, yield 86% | C(C)OC(=O)C=1C(=C2C(CCSC2=C(C1)C)=O)C | C14H16O3S
